US04816484
D-Phenylalanine 2 g (12 mmole) was dissolved in 10% aqueous sodium hydroxide solution (10 ml), and acetone (10 ml) was added. An acetone (5 ml) solution of 4-ethyl benzoyl choride (2.5 g, 15 mmole) and a 10% aqueous sodium hydroxide solution were added dropwise to the mixture obtained above while stirring and cooling with ice over 20 minutes, the reaction solution being maintained at pH 10. The reaction solution was returned to the room temperature, stirred for 3 hours, and made an acidic with a dilute hydrochloric acid solution to precipitate crystals. The crystals were filtered, washed with water and recrystallized from ethyl acetate to obtain N-(4-etylbenzoyl)-D-phenylalanine (3.0 g, yield 83%).

reactant | D-Phenylalanine | 12 mmole, 2 g | N[C@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | acetone | 10 ml | CC(=O)C | C3H6O
reactant | acetone | 5 ml | CC(=O)C | C3H6O
reactant | 4-ethyl benzoyl choride | 15 mmole, 2.5 g | C(C)C1=CC=C(C(=O)Cl)C=C1 | C9H9ClO
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
product | N-(4-etylbenzoyl)-D-phenylalanine | 3.0 g, yield 83% | C(C)C1=CC=C(C(=O)N[C@H](CC2=CC=CC=C2)C(=O)O)C=C1 | C18H19NO3
